US07645789B2
To a solution of 2-tert-butyl-7-fluoro-5-nitro-1H-indole (2.0 g, 8.5 mmol) in MeOH (20 mL) was added Ni (0.3 g) under nitrogen atmosphere. The reaction mixture was stirred under hydrogen atmosphere (1 atm) at room temperature overnight. The catalyst was filtered off through the celite pad and the filtrate was evaporated under vacuum. The crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate 100:1) to give 2-tert-butyl-7-fluoro-1H-indol-5-amine (550 mg, 24%). 1H NMR (300 MHz, CDCl3) δ 7.87 (brs, 1H), 6.64 (d, J=1.5 Hz, 1H), 6.37 (dd, J=1.8, 12.3 Hz, 1H), 6.11 (dd, J=2.4, 3.6 Hz, 1H), 1.39 (s, 9H). MS (ESI) m/z (M+H+) 207.

reactant | 2-tert-butyl-7-fluoro-5-nitro-1H-indole | 8.5 mmol, 2.0 g | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)[N+](=O)[O-])F | C12H13FN2O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Ni | 0.3 g | [Ni] | Ni
product | 2-tert-butyl-7-fluoro-1H-indol-5-amine | 550 mg, 24% | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)N)F | C12H15FN2
